US09422281B2
A 500-mL round bottomed flask equipped with a magnetic stir bar was charged with a solution of (S)-2-(5-bromo-3-nitropyridin-2-ylamino)propane-1-ol (6.8 g, 24.63 mmol) in ethanol (55 mL). Tin(II) chloride dihydrate (22.23 g, 99 mmol) was added, and the mixture was heated to 75° C. The dark orange color faded to a pale orange color over time. After 3 h, heating was discontinued. After the reaction mixture had cooled to ambient temperature, it was slowly diluted with 2 M sodium hydroxide solution (100 mL, 200 mmol). The thick slurry was further diluted with ethyl acetate. The biphasic mixture was rapidly stirred for 10-15 min, and then the organic layer was decanted into a separatory funnel. The small aqueous layer that carried with the ethyl acetate was drained, and the ethyl acetate extract was washed with 5% aqueous sodium chloride solution (2×100 mL). The original aqueous slurry was extracted with ethyl acetate, and the extract subsequently washed with the 5% aqueous sodium chloride solution. The combined ethyl acetate extracts were concentrated under reduced pressure. The biphasic residue was dissolved in acetonitrile (ca. 100 mL), which was then removed under reduced pressure. The process was repeated to yield crude (S)-2-(3-amino-5-bromopyridin-2-ylamino)propane-1-ol (5.95 g, 24.18 mmol, 98%) as a dark purple-green syrup, which eventually solidified upon standing. MS (ESI, pos. ion) m/z 246, 248 [M+1]+.

reactant | (S)-2-(5-bromo-3-nitropyridin-2-ylamino)propane-1-ol | 24.63 mmol, 6.8 g | BrC=1C=C(C(=NC1)N[C@H](CO)C)[N+](=O)[O-] | C8H10BrN3O3
reactant | Tin(II) chloride dihydrate | 99 mmol, 22.23 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 200 mmol, 2 M, 100 mL | [OH-].[Na+]
solvent | ethanol | 55 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(3-amino-5-bromopyridin-2-ylamino)propane-1-ol | 24.18 mmol, 5.95 g, 98% | NC=1C(=NC=C(C1)Br)N[C@H](CO)C | C8H12BrN3O
